US08058276B2
Step 1.3: 6-Hydroxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
Hydrogenation of 202 mg (0.49 mMol) 6-benzyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide dissolved in 6 ml THF in presence of 70 mg Pd/C (10%, Engelhard 4505), filtration, concentration of the filtrate and trituration from hexane gives the title compound: MS: [M−1]=321; TLC(hexane/EtOAc 1:1): Rf=0.51.

reactant | 6-benzyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.49 mMol, 202 mg | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)OCC2=CC=CC=C2)(F)F | C22H15F3N2O3
reactant | hexane | CCCCCC | C6H14
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 6-Hydroxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)O)(F)F | C15H9F3N2O3
